US06727264B1
1-{[(2R)-3-CHLORO-2-METHYLPROPYL]OXY}-2,4,5-TRIFLUOROBENZENE:
Prepared by Procedure U and Scheme AK using 2,4,5-trifluorophenol and (2S)-1-bromo-3-chloro-2-methylpropane.

reactant | 2,4,5-trifluorophenol | FC1=C(C=C(C(=C1)F)F)O | C6H3F3O
reactant | (2S)-1-bromo-3-chloro-2-methylpropane | BrC[C@H](CCl)C | C4H8BrCl
product | 1-{[(2R)-3-CHLORO-2-METHYLPROPYL]OXY}-2,4,5-TRIFLUOROBENZENE | ClC[C@@H](COC1=C(C=C(C(=C1)F)F)F)C | C10H10ClF3O
